US06433196B1
Under a nitrogen atmosphere, turnings of magnesium (16.8 g) were dispersed in THF (116 ml), and iodine (0.1 g) was added. Under a nitrogen atmosphere, a solution of 4-bromofluorobenzene (116 g) in THF (201 ml) was added dropwise at 15-40° C., and the mixture was stirred at 20-40° C. for 2 hr. The obtained mixture with a Grignard reagent was cooled and thereto was added dropwise a solution of 2,4-dimethylbenzaldehyde (81 g) in THF (81 ml) at 0-20° C. After the dropwise addition, the reaction mixture was stirred at 0-20° C. for 2 hr. A saturated aqueous ammonium chloride solution was added to stop the reaction. The reaction mixture was partitioned and the obtained organic layer was retained. The aqueous layer was extracted with toluene and combined with the organic layer obtained earlier, and washed with saturated brine. The solvent was evaporated from the organic layer under reduced pressure to give (2,4-dimethylphenyl)-(4′-fluorophenyl)methanol (139.2 g, 100%) as a colorless oil.

reactant | magnesium | 16.8 g | [Mg] | Mg
reactant | 4-bromofluorobenzene | 116 g | BrC1=CC=C(C=C1)F | C6H4BrF
reactant | 2,4-dimethylbenzaldehyde | 81 g | CC1=C(C=O)C=CC(=C1)C | C9H10O
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | THF | 116 ml | C1CCOC1 | C4H8O
solvent | THF | 201 ml | C1CCOC1 | C4H8O
solvent | THF | 81 ml | C1CCOC1 | C4H8O
catalyst | iodine | 0.1 g | II | I2
product | (2,4-dimethylphenyl)-(4′-fluorophenyl)methanol | 139.2 g, 100% | CC1=C(C=CC(=C1)C)C(O)C1=CC=C(C=C1)F | C15H15FO
